US06706709B2
A solution of 5-chlorosulfonyl-2-oxindole (5 g), 2-methoxyethylamine (2.25 mL) and pyridine (7 mL) in dichloromethane (30 mL) was stirred at room temperature for 4 hours. The reaction was concentrated and dichloromethane (15 mL) was added. The precipitate was filtered, washed with dichloromethane and dried to give 1.9 g (33%) of 2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid (2-methoxy-ethyl)-amide.

reactant | 5-chlorosulfonyl-2-oxindole | 5 g | ClS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C8H6ClNO3S
reactant | 2-methoxyethylamine | 2.25 mL | COCCN | C3H9NO
reactant | pyridine | 7 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid (2-methoxy-ethyl)-amide | 1.9 g, 33% | COCCNS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C11H14N2O4S
